US08022062B2
5-Azidomethyl-2-(3-methyl-butyryl)-pyridine:
Add DBU (240 mg, 1.55 mmol) to a solution of 5-hydroxymethyl-2-(3-methyl-butyryl)-pyridine (250 mg, 1.29 mmol) and diphenylphosphorylazide (430 mg, 1.55 mmol) in anhydrous toluene (10 mL) at 0° C. Stir at 0° C. for 30 min, warm to room temperature and stir for 4 h. Dilute with EtOAc and water. Extract the aqueous phase twice with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (9:1) to provide the desired intermediate (300 mg, 99%). MS (ES+) m/z: 219 (M+H)+.

reactant | DBU | 1.55 mmol, 240 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-hydroxymethyl-2-(3-methyl-butyryl)-pyridine | 1.29 mmol, 250 mg | OCC=1C=CC(=NC1)C(CC(C)C)=O | C11H15NO2
reactant | diphenylphosphorylazide | 1.55 mmol, 430 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-Azidomethyl-2-(3-methyl-butyryl)-pyridine | 300 mg, 99% | N(=[N+]=[N-])CC=1C=CC(=NC1)C(CC(C)C)=O | C11H14N4O
